US05319133
A stirred suspension of 2-ethyl valeramide (33.0 g, 286 mmol) in 220 ml of ethyl acetate was cooled to 0° and hypochlorous acid (55.25 g of 27.67% solution, 291 mmol) was added over 15 minutes. The cooling bath was removed and stirring continued for 1/2 hour. The organic phase was collected and dried (MgSO4) and the solvent was removed on a rotary evaporator to yield 32.8 g of N-chloro-2-methyl valeramide as a clear yellow liquid.

reactant | 2-ethyl valeramide | 286 mmol, 33.0 g | C(C)C(C(=O)N)CCC | C7H15NO
reactant | hypochlorous acid | 291 mmol, 55.25 g | ClO | ClHO
solvent | ethyl acetate | 220 ml | C(C)(=O)OCC | C4H8O2
product | N-chloro-2-methyl valeramide | 32.8 g | ClNC(C(CCC)C)=O | C6H12ClNO
